**** DUT instance
XIinverter_1 in out_1 Vsupply_1 VSS inverter_1 
**** Give each inverter its own supply to monitor power usage
Vsource_1 Vsupply_1 VSS 1.2

.save i(Vsource_1) v(out_1)

** Template formatted with W and L parameters
** Additional identification index 1 also provided for multiple model instantiation

.subckt inverter_1 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=5.331751973221176 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 0******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_2 in out_2 Vsupply_2 VSS inverter_2 
**** Give each inverter its own supply to monitor power usage
Vsource_2 Vsupply_2 VSS 1.2

.save i(Vsource_2) v(out_2)

** Template formatted with W and L parameters
** Additional identification index 2 also provided for multiple model instantiation

.subckt inverter_2 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 1******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_3 in out_3 Vsupply_3 VSS inverter_3 
**** Give each inverter its own supply to monitor power usage
Vsource_3 Vsupply_3 VSS 1.2

.save i(Vsource_3) v(out_3)

** Template formatted with W and L parameters
** Additional identification index 3 also provided for multiple model instantiation

.subckt inverter_3 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=10.0 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 2******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_4 in out_4 Vsupply_4 VSS inverter_4 
**** Give each inverter its own supply to monitor power usage
Vsource_4 Vsupply_4 VSS 1.2

.save i(Vsource_4) v(out_4)

** Template formatted with W and L parameters
** Additional identification index 4 also provided for multiple model instantiation

.subckt inverter_4 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=10.0 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 3******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_5 in out_5 Vsupply_5 VSS inverter_5 
**** Give each inverter its own supply to monitor power usage
Vsource_5 Vsupply_5 VSS 1.2

.save i(Vsource_5) v(out_5)

** Template formatted with W and L parameters
** Additional identification index 5 also provided for multiple model instantiation

.subckt inverter_5 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=9.999999999999991 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 4******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_6 in out_6 Vsupply_6 VSS inverter_6 
**** Give each inverter its own supply to monitor power usage
Vsource_6 Vsupply_6 VSS 1.2

.save i(Vsource_6) v(out_6)

** Template formatted with W and L parameters
** Additional identification index 6 also provided for multiple model instantiation

.subckt inverter_6 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=9.999999999999982 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 5******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_7 in out_7 Vsupply_7 VSS inverter_7 
**** Give each inverter its own supply to monitor power usage
Vsource_7 Vsupply_7 VSS 1.2

.save i(Vsource_7) v(out_7)

** Template formatted with W and L parameters
** Additional identification index 7 also provided for multiple model instantiation

.subckt inverter_7 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 6******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_8 in out_8 Vsupply_8 VSS inverter_8 
**** Give each inverter its own supply to monitor power usage
Vsource_8 Vsupply_8 VSS 1.2

.save i(Vsource_8) v(out_8)

** Template formatted with W and L parameters
** Additional identification index 8 also provided for multiple model instantiation

.subckt inverter_8 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=10.0 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 7******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_9 in out_9 Vsupply_9 VSS inverter_9 
**** Give each inverter its own supply to monitor power usage
Vsource_9 Vsupply_9 VSS 1.2

.save i(Vsource_9) v(out_9)

** Template formatted with W and L parameters
** Additional identification index 9 also provided for multiple model instantiation

.subckt inverter_9 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=9.999999999999991 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=9.999999999999991 L=9.999999999999991 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 8******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_10 in out_10 Vsupply_10 VSS inverter_10 
**** Give each inverter its own supply to monitor power usage
Vsource_10 Vsupply_10 VSS 1.2

.save i(Vsource_10) v(out_10)

** Template formatted with W and L parameters
** Additional identification index 10 also provided for multiple model instantiation

.subckt inverter_10 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=9.999999999999982 L=9.999999999999982 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=9.999999999999982 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 9******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_11 in out_11 Vsupply_11 VSS inverter_11 
**** Give each inverter its own supply to monitor power usage
Vsource_11 Vsupply_11 VSS 1.2

.save i(Vsource_11) v(out_11)

** Template formatted with W and L parameters
** Additional identification index 11 also provided for multiple model instantiation

.subckt inverter_11 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=8.112744224747516 L=0.13000000000000034 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=4.4514877302965985 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 10******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_12 in out_12 Vsupply_12 VSS inverter_12 
**** Give each inverter its own supply to monitor power usage
Vsource_12 Vsupply_12 VSS 1.2

.save i(Vsource_12) v(out_12)

** Template formatted with W and L parameters
** Additional identification index 12 also provided for multiple model instantiation

.subckt inverter_12 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=5.117450755391242 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 11******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_13 in out_13 Vsupply_13 VSS inverter_13 
**** Give each inverter its own supply to monitor power usage
Vsource_13 Vsupply_13 VSS 1.2

.save i(Vsource_13) v(out_13)

** Template formatted with W and L parameters
** Additional identification index 13 also provided for multiple model instantiation

.subckt inverter_13 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 12******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_14 in out_14 Vsupply_14 VSS inverter_14 
**** Give each inverter its own supply to monitor power usage
Vsource_14 Vsupply_14 VSS 1.2

.save i(Vsource_14) v(out_14)

** Template formatted with W and L parameters
** Additional identification index 14 also provided for multiple model instantiation

.subckt inverter_14 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 13******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_15 in out_15 Vsupply_15 VSS inverter_15 
**** Give each inverter its own supply to monitor power usage
Vsource_15 Vsupply_15 VSS 1.2

.save i(Vsource_15) v(out_15)

** Template formatted with W and L parameters
** Additional identification index 15 also provided for multiple model instantiation

.subckt inverter_15 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=8.1195654345801 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=4.449667527034647 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 14******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_16 in out_16 Vsupply_16 VSS inverter_16 
**** Give each inverter its own supply to monitor power usage
Vsource_16 Vsupply_16 VSS 1.2

.save i(Vsource_16) v(out_16)

** Template formatted with W and L parameters
** Additional identification index 16 also provided for multiple model instantiation

.subckt inverter_16 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=10.0 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 15******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_17 in out_17 Vsupply_17 VSS inverter_17 
**** Give each inverter its own supply to monitor power usage
Vsource_17 Vsupply_17 VSS 1.2

.save i(Vsource_17) v(out_17)

** Template formatted with W and L parameters
** Additional identification index 17 also provided for multiple model instantiation

.subckt inverter_17 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=8.124776102162116 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=4.451321891381951 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 16******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_18 in out_18 Vsupply_18 VSS inverter_18 
**** Give each inverter its own supply to monitor power usage
Vsource_18 Vsupply_18 VSS 1.2

.save i(Vsource_18) v(out_18)

** Template formatted with W and L parameters
** Additional identification index 18 also provided for multiple model instantiation

.subckt inverter_18 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 17******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_19 in out_19 Vsupply_19 VSS inverter_19 
**** Give each inverter its own supply to monitor power usage
Vsource_19 Vsupply_19 VSS 1.2

.save i(Vsource_19) v(out_19)

** Template formatted with W and L parameters
** Additional identification index 19 also provided for multiple model instantiation

.subckt inverter_19 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=10.0 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 18******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_20 in out_20 Vsupply_20 VSS inverter_20 
**** Give each inverter its own supply to monitor power usage
Vsource_20 Vsupply_20 VSS 1.2

.save i(Vsource_20) v(out_20)

** Template formatted with W and L parameters
** Additional identification index 20 also provided for multiple model instantiation

.subckt inverter_20 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=10.0 L=10.0 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 19******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_21 in out_21 Vsupply_21 VSS inverter_21 
**** Give each inverter its own supply to monitor power usage
Vsource_21 Vsupply_21 VSS 1.2

.save i(Vsource_21) v(out_21)

** Template formatted with W and L parameters
** Additional identification index 21 also provided for multiple model instantiation

.subckt inverter_21 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=10.0 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 20******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_22 in out_22 Vsupply_22 VSS inverter_22 
**** Give each inverter its own supply to monitor power usage
Vsource_22 Vsupply_22 VSS 1.2

.save i(Vsource_22) v(out_22)

** Template formatted with W and L parameters
** Additional identification index 22 also provided for multiple model instantiation

.subckt inverter_22 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=8.124571167939067 L=0.13 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=4.4500206300183205 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 21******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_23 in out_23 Vsupply_23 VSS inverter_23 
**** Give each inverter its own supply to monitor power usage
Vsource_23 Vsupply_23 VSS 1.2

.save i(Vsource_23) v(out_23)

** Template formatted with W and L parameters
** Additional identification index 23 also provided for multiple model instantiation

.subckt inverter_23 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=9.999999999999991 L=9.999999999999991 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=9.999999999999991 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 22******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_24 in out_24 Vsupply_24 VSS inverter_24 
**** Give each inverter its own supply to monitor power usage
Vsource_24 Vsupply_24 VSS 1.2

.save i(Vsource_24) v(out_24)

** Template formatted with W and L parameters
** Additional identification index 24 also provided for multiple model instantiation

.subckt inverter_24 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=9.999999999999991 L=9.999999999999991 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=0.25 L=9.999999999999991 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 23******************************
*************************************************************
*************************************************************

**** DUT instance
XIinverter_25 in out_25 Vsupply_25 VSS inverter_25 
**** Give each inverter its own supply to monitor power usage
Vsource_25 Vsupply_25 VSS 1.2

.save i(Vsource_25) v(out_25)

** Template formatted with W and L parameters
** Additional identification index 25 also provided for multiple model instantiation

.subckt inverter_25 in out vh vl

Xmp out in vh vh sg13_lv_pmos W=0.25 L=9.999999999999982 ng=1 m=1
Xmn out in vl vl sg13_lv_nmos W=9.999999999999982 L=0.13 ng=1 m=1

.ends

*************************************************************
*************************************************************
********************End Index 24******************************
*************************************************************
*************************************************************

**** Input sources
Vscm        in VSS dc 0.6

**** Supply sources
Vsvdd VDD GND dc 1.2
Vsvss VSS GND dc 0

.lib /foss/pdks/sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

.options temp=27
.options method=gear
.GLOBAL VDD VSS

** .save all

.control
set wr_vecnames
** ac dec 100 1k 1T

** tran 100p 5u
** write OpAmp_Optimization/simulations/output.raw all

op
wrdata OpAmp_Optimization/simulations/output.txt all

.endc
